US07714126B2
With a method similar to example 16 above, 2-phenyl-5-trifluoromethyloxazole-4-carboxylic acid-[6-(3,3-difluoroazetidin-1-yl)pyridin-3-yl]amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 3-amino-6-(3,3-difluoroazetidin-1-yl)pyridine. LCMS calcd for C19H13F5N4O2 m/e 424.33, obsd 425.0 (ES, M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 3-amino-6-(3,3-difluoroazetidin-1-yl)pyridine | NC=1C=NC(=CC1)N1CC(C1)(F)F | C8H9F2N3
product | 2-phenyl-5-trifluoromethyloxazole-4-carboxylic acid-[6-(3,3-difluoroazetidin-1-yl)pyridin-3-yl]amide | FC1(CN(C1)C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)F | C19H13F5N4O2
